US08067613B2
methyl 6-(2-amino-3-carbamoylphenylcarbamoyl)nicotinate
A solution of 5-(methoxycarbonyl)picolinic acid (3.33 g, 18.4 mmol) in a mixture of pyridine (20 mL) and N,N-dimethylformamide (35 mL) was treated with 1,1′-carbonyldiimidazole (3.28 g, 20.2 mmol) at 45° C. for 2 hours. After cooling, 2,3-diaminobenzamide (HCl salt) (4.12 g, 18.4 mmol) was added and the mixture stirred at room temperature overnight. The mixture was concentrated and the residue used in the next step without further purification.

reactant | 5-(methoxycarbonyl)picolinic acid | 18.4 mmol, 3.33 g | COC(=O)C=1C=CC(=NC1)C(=O)O | C8H7NO4
reactant | 1,1′-carbonyldiimidazole | 20.2 mmol, 3.28 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,3-diaminobenzamide | 18.4 mmol, 4.12 g | NC1=C(C(=O)N)C=CC=C1N | C7H9N3O
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | methyl 6-(2-amino-3-carbamoylphenylcarbamoyl)nicotinate | NC1=C(C=CC=C1C(N)=O)NC(=O)C1=NC=C(C(=O)OC)C=C1 | C15H14N4O4
